US07914862B2
In a reactor under nitrogen atmosphere, 10.6 g of 8-methylene-1,4-dioxaspiro[4.5]decane obtained in the first step was dissolved in 50 mL of THF, and the solution was cooled to 0° C., to which 150 mL of 9-BBN (0.5M, THF solution) was added dropwise. After stirring at room temperature for 48 hours, the reaction mixture was cooled to 0° C., to which 40 mL of a 6M sodium hydroxide aqueous solution was added. The solution was maintained at 0° C., to which a 35% hydrogen peroxide solution was added dropwise. The reaction mixture was washed with a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to provide 7.3 g of (1,4-dioxaspiro[4.5]dec-8-yl)methanol.

reactant | 9-BBN | 0.5M, 150 mL | B1C2CCCC1CCC2 | C8H15B
reactant | sodium hydroxide | 6M | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | (1,4-dioxaspiro[4.5]dec-8-yl)methanol | 7.3 g | O1CCOC12CCC(CC2)CO | C9H16O3
